US05744488
Methyl 5-nitro-3-(3-pyridylmethyl)-1H-indole-1-propanoate
Benzyltrimethylammonium hydroxide (0.8 ml of 40% solution in methanol) was added to a stirred mixture of 5-nitro-3-(3-pyridylmethyl)-1H-indole (7.34 g) and methyl acrylate (3.0 g) in dioxan (140 ml) and the resulting solution was stirred for 75 minutes and then evaporated. The residue was partitioned between water and ethyl acetate. The aqueous layer was separated and extracted with ethyl acetate. The organic layers were combined, washed with water and dried (Na2SO4). Evaporation of the solvent gave a solid which was crystallised from ethyl acetate/hexane to give the title compound (7.33 g), m.p. 101°-102° C. Found: C,63.85; H,4.86; N,12.37. C18H17N3O4 requires: C,63.71; H,5.05; N,12.38%.

reactant | Benzyltrimethylammonium hydroxide | 0.8 ml | [OH-].C(C1=CC=CC=C1)[N+](C)(C)C
reactant | 5-nitro-3-(3-pyridylmethyl)-1H-indole | 7.34 g | [N+](=O)([O-])C=1C=C2C(=CNC2=CC1)CC=1C=NC=CC1 | C14H11N3O2
reactant | methyl acrylate | 3.0 g | C(C=C)(=O)OC | C4H6O2
solvent | dioxan | 140 ml | O1CCOCC1 | C4H8O2
product | Methyl 5-nitro-3-(3-pyridylmethyl)-1H-indole-1-propanoate | 7.33 g | [N+](=O)([O-])C=1C=C2C(=CN(C2=CC1)CCC(=O)OC)CC=1C=NC=CC1 | C18H17N3O4
